US07163947B2
tert-Butyl N-(2-methyl-1H-imidazo[4,5-c]quinolin-1-yl)carbamate (5.00 g, 16.8 mmol) was dissolved in 40 mL of 1.65 M HCl in EtOH, and the reaction mixture was heated to reflux for 2 h. The reaction mixture was cooled and concentrated under reduced pressure to give a brown solid. The brown solid was crystallized from ethanol/H2O to give 3.13 g of 2-methyl-1H-imidazo[4,5-c]quinolin-1-amine hydrochloride.

reactant | tert-Butyl N-(2-methyl-1H-imidazo[4,5-c]quinolin-1-yl)carbamate | 16.8 mmol, 5.00 g | CC=1N(C2=C(C=NC=3C=CC=CC23)N1)NC(OC(C)(C)C)=O | C16H18N4O2
reactant | HCl | 1.65 M, 40 mL | Cl | ClH
solvent | EtOH | CCO | C2H6O
product | 2-methyl-1H-imidazo[4,5-c]quinolin-1-amine hydrochloride | 3.13 g | Cl.CC=1N(C2=C(C=NC=3C=CC=CC23)N1)N | InChI=1S/C11H10N4.ClH/c1-7-14-10-6-13-9-5-3-2-4-8(9)11(10)15(7)12;/h2-6H,12H2,1H3;1H
